US07847099B2
Synthesis of 2-t-butyl-4-methyl-6-bromophenol
2-t-Butyl-4-methylphenol (10 g, 60.8 mmol) is dissolved in CH2Cl2 (300 mL). Bromine (3.1 mL, 60.8 mmol) is added dropwise to the solution. After 20 minutes, the crude mixture is washed with H2O, dried over MgSO4, filtered and rotovapped to give yellow oil: 12.6 g, 85%. 1H NMR (CDCl3) δ: 1.402 (s, 9H, t-Bu), 2.267 (s, 3H, CH3), 5.640 (s, 1H, OH), 7.017 (s, 1H, Ar), 7.167 (s, 1H, Ar).

reactant | 2-t-Butyl-4-methylphenol | 60.8 mmol, 10 g | C(C)(C)(C)C1=C(C=CC(=C1)C)O | C11H16O
reactant | Bromine | 60.8 mmol, 3.1 mL | BrBr | Br2
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | 2-t-butyl-4-methyl-6-bromophenol | C(C)(C)(C)C1=C(C(=CC(=C1)C)Br)O | C11H15BrO
